US06380218B1
(R)-2-(3-Chloro-phenoxy)-N-(2-hydroxy-1-phenyl-ethyl)-nicotinamide
A solution of 2-(3-chloro-phenoxy)-nicotinic acid (0.25 grams, 1.0 mmole) in thionyl chloride (10 ml) was heated to reflux. After 1 hour the reaction mixture was cooled to room temperature and concentrated under reduced pressure. The resulting residue was dissolved in tetrahydrofuran (5 ml) and added dropwise to a solution of (S)-2-hydroxy-1-phenyl ethylamine (0.14 grams, 1.0 mmole) in pyridine (5 ml) at 0° C. After 30 minutes the mixture was warmed to room temperature. After 1 hour the mixture was poured into 1 N hydrochloric acid and extracted with ethyl acetate. The combined organics were washed with 1 N hydrochloric acid followed by brine and dried over Na2SO4. Concentration under reduced pressure resulted in a yellow oil that was purified by chromatography on silica gel eluting with 1:1 ethyl acetate/hexane to give a colorless oil. Anal. calcd. for C20H17N2O3Cl: C, 65.13; H, 4.65; N, 7.60. Found: C, 65.20; H, 4.78; N, 7.38; M.S. m/z [M+] 369; 1H NMR (400 MHz, CDCl3) d 2.54 (s, broad, 1H), 3.95 (m, 2H), 5.32 (m, 1H), 7.23 (m, 10H), 8.22 (m, 1H), 8.58 (m, 2H).

reactant | 2-(3-chloro-phenoxy)-nicotinic acid | 1.0 mmole, 0.25 grams | ClC=1C=C(OC2=C(C(=O)O)C=CC=N2)C=CC1 | C12H8ClNO3
reactant | (S)-2-hydroxy-1-phenyl ethylamine | 1.0 mmole, 0.14 grams | OC[C@H](C1=CC=CC=C1)N | C8H11NO
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | (R)-2-(3-Chloro-phenoxy)-N-(2-hydroxy-1-phenyl-ethyl)-nicotinamide | ClC=1C=C(OC2=C(C(=O)N[C@@H](CO)C3=CC=CC=C3)C=CC=N2)C=CC1 | C20H17ClN2O3
